US07470679B2
(S)-dimethyl 2-((3,7-dibromo-4-(hydroxymethyl)-1H-indazol-5-yl)methyl)succinate
(S)-Diethyl 2-((4-(acetoxymethyl)-3,7-dibromo-1H-indazol-5-yl)methyl)succinate (540 mg, 1.011 mmol) was dissolved in methanol (12 mL). 6-10% Magnesium methoxide solution in methanol (2.7 mL, 2.041 mmol) was added to the mixture. Reaction stirred at room temperature for 18 hours. Reaction was quenched with 5 mL 1N hydrochloric acid. Mixture stirred at room temperature for 30 minutes. Methanol was removed from the mixture by roto-vap. Residue was dissolved in water and then made basic with aqueous sodium bicarbonate. Material was extracted twice with ethyl acetate and the aqueous phase was discarded. Organics were dried MgSO4, filtered and then concentrated to dryness. Title compound was obtained as white foam in 99% yield. 1H NMR, MS (M−H)−=463.1, 461.1, 465.1.

reactant | (S)-Diethyl 2-((4-(acetoxymethyl)-3,7-dibromo-1H-indazol-5-yl)methyl)succinate | 1.011 mmol, 540 mg | C(C)(=O)OCC1=C2C(=NNC2=C(C=C1C[C@H](C(=O)OCC)CC(=O)OCC)Br)Br | C19H22Br2N2O6
reactant | Magnesium methoxide | C[O-].[Mg+2].C[O-]
solvent | methanol | 12 mL | CO | CH4O
solvent | methanol | 2.041 mmol, 2.7 mL | CO | CH4O
product | (S)-dimethyl 2-((3,7-dibromo-4-(hydroxymethyl)-1H-indazol-5-yl)methyl)succinate | 99% yield | BrC1=NNC2=C(C=C(C(=C12)CO)C[C@H](C(=O)OC)CC(=O)OC)Br | C15H16Br2N2O5
